US07459451B2
To a stirred solution of ethyl 4-(3-chlorophenyl)-1-ethyl-6-methyl-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (135 mg) in THF (3 ml) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (97.5 mg) and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into saturated NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:5) to give ethyl 4-(3-chlorophenyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (47 mg) as colorless oil.

reactant | ethyl 4-(3-chlorophenyl)-1-ethyl-6-methyl-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 135 mg | ClC=1C=C(C=CC1)C1C2=C(NC(=C1C(=O)OCC)C)N(N=C2)CC | C18H20ClN3O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 97.5 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | ethyl 4-(3-chlorophenyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 47 mg | ClC=1C=C(C=CC1)C1=C2C(=NC(=C1C(=O)OCC)C)N(N=C2)CC | C18H18ClN3O2
